US04006109
The a 3-liter round-bottomed flask provided with a stirrer , thermometer, condenser and dropping funnel, there are added 353 g (2.3 mol) of 2-tert. butyl-cyclohexanone 14 g of anhydrous sodium acetate and 1.17 liters of methylene chloride. 370 g of ca. 40% peracetic acid are added at room temperature while cooling. The mixture is held first at room temperature for 20 hours with stirring and then for a further 48 hours under reflux temperature. After cooling, the mixture is poured on to ice, the layers are separated and the organic layer washed with an iron sulphate solution and then with water until a neutral reaction is obtained. The solvent is distilled off and the crude lactone distilled, there being obtained 274 g (70.3%) of the Σ-lactone of 6-hydroxy-7,7-dimethylcaprylic acid of boiling point 134° C/12 mm Hg; melting point 54°-58° C.

reactant | 2-tert. butyl-cyclohexanone | 2.3 mol, 353 g | C(C)(C)(C)C1C(CCCC1)=O | C10H18O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | peracetic acid | 370 g | C(C)(=O)OO | C2H4O3
solvent | methylene chloride | 1.17 liters | C(Cl)Cl | CH2Cl2
product | 6-hydroxy-7,7-dimethylcaprylic acid | OC(CCCCC(=O)O)C(C)(C)C | C10H20O3
